US05663200
86a) N-(Ethoxycarbonyl)-(L)-valine
The title compound is prepared, in analogy with Example 30a), from L-valine in 2N NaOH and dioxane using ethyl chloroformate (Fluka, Buchs, Switzerland), and subjected to further processing without purification.

reactant | L-valine | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | NaOH | 2N | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(Ethoxycarbonyl)-(L)-valine | C(C)OC(=O)N[C@@H](C(C)C)C(=O)O | C8H15NO4
